US05567391
6-Cyclohexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-phenyl-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione;
6-Cyclohexyl-6,7-dihydro-4-(phenylmethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8-dione; 6-Cyclohexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione; 6-Hexyl-6,7-dihydro-4-(phenylmethyl)-2-phenyl-4H- pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione; 6-Hexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-phenyl-4H-pyrazolo [1,5-a]-pyrrolo [3,4-d]-pyrimidine-5,8-dione; 6-Hexyl-6,7-dihydro-4-(phenylmethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione; 6-Hexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione are set forth in Table 15.

reactant | 6-Cyclohexyl-6,7-dihydro-4-(phenylmethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8-dione | C1(CCCCC1)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=C(C=C3)Cl)CC3=CC=CC=C3)=O | C27H25ClN4O2
reactant | 6-Cyclohexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione | C1(CCCCC1)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=C(C=C3)Cl)CC(C3=CC=CC=C3)=O)=O | C28H25ClN4O3
reactant | 6-Hexyl-6,7-dihydro-4-(phenylmethyl)-2-phenyl-4H- pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione | C(CCCCC)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=CC=C3)CC3=CC=CC=C3)=O | C27H28N4O2
reactant | 6-Hexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-phenyl-4H-pyrazolo [1,5-a]-pyrrolo [3,4-d]-pyrimidine-5,8-dione | C(CCCCC)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=CC=C3)CC(C3=CC=CC=C3)=O)=O | C28H28N4O3
reactant | 6-Hexyl-6,7-dihydro-4-(phenylmethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione | C(CCCCC)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=C(C=C3)Cl)CC3=CC=CC=C3)=O | C27H27ClN4O2
reactant | 6-Hexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-(4-chlorophenyl)-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione | C(CCCCC)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=C(C=C3)Cl)CC(C3=CC=CC=C3)=O)=O | C28H27ClN4O3
product | 6-Cyclohexyl-6,7-dihydro-4-(2-oxo-2-phenylethyl)-2-phenyl-4H-pyrazolo[1,5-a]pyrrolo[3,4-d]-pyrimidine-5,8-dione | C1(CCCCC1)N1C(C=2N(C=3N(C(C2C1)=O)N=C(C3)C3=CC=CC=C3)CC(C3=CC=CC=C3)=O)=O | C28H26N4O3
